US04126687
To a solution of 5.7 parts of 3,4-dihydro-2H-[1,3]oxazino[3,2-a]benzimidazole in 80 parts of 2-propanone is added 5.7 parts of iodomethane and the whole is stirred and refluxed for 2h. 50. Then there is added a second portion of 5.7 parts of iodomethane and the whole is further stirred and refluxed for 2h. 50. The solvent is evaporated, yielding 1,3-dihydro-1-(3-iodopropyl)-3-methyl-2H-benzimidazol-2-one as an oily residue.

reactant | 3,4-dihydro-2H-[1,3]oxazino[3,2-a]benzimidazole | O1CCCN2C1=NC1=C2C=CC=C1 | C10H10N2O
reactant | iodomethane | IC | CH3I
reactant | 2-propanone | CC(C)=O | C3H6O
product | 1,3-dihydro-1-(3-iodopropyl)-3-methyl-2H-benzimidazol-2-one | ICCCN1C(N(C2=C1C=CC=C2)C)=O | C11H13IN2O
